US03957878
6.8 g. of mesitol dissolved in 50 ml of benzene are treated with 2.4 g of sodium hydride (50 percent suspension in oil). After completion of the salt-formation, 8.5 g of 5-bromo-1-pentene are added thereto. The reaction mixture is heated at reflux for 24 hours, taken up in hexane and shaken with an aqueous potassium hydroxide solution (10 percent by weight) and Claisen's alkali (35 g of KOH, 25 ml of water and 100 ml of methanol). The organic phase is dried, evaporated and chromatographed on silicagel using hexane and 3 percent diethylether in hexane as the elution agent. Evaporation of the eluate and recrystallization of the residue from hexane yields 1,3,9-trimethyl-tricyclo [5,3,1,03,8 ] undeca-9-en-2-one of melting point 46° -47°C.

reactant | mesitol | C1(=C(C(=CC(=C1)C)C)O)C | C9H12O
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 5-bromo-1-pentene | 8.5 g | BrCCCC=C | C5H9Br
reactant | potassium hydroxide | [OH-].[K+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
product | 1,3,9-trimethyl-tricyclo [5,3,1,03,8 ] undeca-9-en-2-one | CC12C(C3(CCCC(C3C(=C1)C)C2)C)=O | C14H20O
